US20010018532A1
(2S,3S)-1-Acetoxy-3-(t-butoxycarbonylamino)-2-methanesulfonyloxy-4-phenylbutane
A mixture composed of 12.4 mmol (4.00 g) of (2S,3S)-1-acetoxy-3-(t-butoxycarbonylamino)-2-hydroxy-4-phenylbutane, 24.8 mmol (2.48 g) of methanesulfonyl chloride and 20 ml of pyridine was allowed to stand at 4° C. for 48 hours. Thereafter, 30 ml of ethyl acetate was added, the organic layer was washed with three 30-ml portions of 10% hydrochloric acid and finally with 30 ml of water. The organic layer was separated, dried over sodium sulfate, filtered and concentrated under reduced pressure. Hexane (30 ml) was added to the residue, and the mixture was allowed to stand. The resulting white solid precipitate was collected by filtration. Thus was obtained 4.90 g (98%) of the title compound.

reactant | (2S,3S)-1-acetoxy-3-(t-butoxycarbonylamino)-2-hydroxy-4-phenylbutane | 12.4 mmol, 4.00 g | C(C)(=O)OC[C@H]([C@H](CC1=CC=CC=C1)NC(=O)OC(C)(C)C)O | C17H25NO5
reactant | methanesulfonyl chloride | 24.8 mmol, 2.48 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | (2S,3S)-1-Acetoxy-3-(t-butoxycarbonylamino)-2-methanesulfonyloxy-4-phenylbutane | 4.90 g, 98% | C(C)(=O)OC[C@H]([C@H](CC1=CC=CC=C1)NC(=O)OC(C)(C)C)OS(=O)(=O)C | C18H27NO7S
